US08530468B2
3,8-Dichloroisoquinoline
8-Chloroisoquinolin-3-amine (724 mg, 4.05 mmol) was suspended in 10 M HCl and cooled to 0° C. Sodium nitrite (336 mg, 4.86 mmol) was added in portions over 10 minutes. The reaction mixture was stirred for 2 hours, slowly warming to room temperature over an additional 1 hour. After 3 hours, the mixture was poured cautiously into saturated sodium bicarbonate solution, and extracted into ethyl acetate. The organic extract was washed with brine, dried (Na2SO4) and concentrated. Flash chromatography on silica, eluting with dichloromethane, gave the title compound as a white solid (362 mg, 1.83 mmol, 45%). 1H NMR (d6-DMSO, 400 MHz) δ 9.40 (br t, 1H, J=0.8 Hz), 8.20 (br s, 1H), 8.00-7.98 (m, 1H), 7.88-7.81 (m, 2H). LCMS (3) Rt=2.49 min; m/z (ESI+) 198 (MH+).

reactant | 8-Chloroisoquinolin-3-amine | 4.05 mmol, 724 mg | ClC=1C=CC=C2C=C(N=CC12)N | C9H7ClN2
reactant | Sodium nitrite | 4.86 mmol, 336 mg | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | HCl | 10 M | Cl | ClH
product | 3,8-Dichloroisoquinoline | 1.83 mmol, 362 mg, 45% | ClC=1N=CC2=C(C=CC=C2C1)Cl | C9H5Cl2N
